US05104885
A mechanically stirred mixture of 5-[5-(2-furyl)pentoxy]-6-methoxy-4-methyl-8-nitroquinoline (2.20 g, 0.0059 mol), Fe-filings (3.0 g), Bu2O (8 ml), H2O (30 ml) and HOAc (0.5 ml) was heated at 95°-100° C. for 2 h, allowed to cool and filtered. The residue was washed with Et2O (100 ml) and the filtrate and the washings were combined. The organic layer was separated and the aqueous layer was extracted with Et2O (2×50 ml). The combined organic layers were washed with saturated NaCl solution (1×50 ml), dried (Na2SO4), treated with Darco and concentrated to an oil which on trituration with cold hexane produced 8-amino-5-[5-(2-furyl) pentoxy]-6-methoxy-4-methylquinoline as a crude greenish-yellow solid 1.35 g (65%), mp 41°-42° C. This material was used without further purification.

reactant | 5-[5-(2-furyl)pentoxy]-6-methoxy-4-methyl-8-nitroquinoline | 0.0059 mol, 2.20 g | O1C(=CC=C1)CCCCCOC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C20H22N2O5
reactant | Bu2O | 8 ml | O(CCCC)CCCC | C8H18O
reactant | H2O | 30 ml | O | H2O
catalyst | Fe | [Fe] | Fe
solvent | HOAc | 0.5 ml | CC(=O)O | C2H4O2
product | 8-amino-5-[5-(2-furyl) pentoxy]-6-methoxy-4-methylquinoline | NC=1C=C(C(=C2C(=CC=NC12)C)OCCCCCC=1OC=CC1)OC | C20H24N2O3
